US07262212B2
A mixture of 1-[4-(tetrahydropyran-2-yloxy)phenyl]-4-(4-trifluoromethoxyphenyl)piperazine (2.65 g, 6.27 mmol) prepared in Reference Example 185 and pyridinium p-toluene sulfonate (473 mg, 1.88 mmol) in ethanol (50 ml) was stirred at 70° C. for 5 hours. The reaction mixture was concentrated under reduced pressure, and methylene chloride and a saturated sodium hydrogencarbonate aqueous solution were added to the residue, which was stirred for a while. The mixture was extracted with methylene chloride, and the extract was dried over magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/ethyl acetate=10/1) to afford 4-[4-(4-trifluoromethoxyphenyl)-piperazin-1-yl]phenol (1.95 g, yield 92%) as a white powder.

reactant | 1-[4-(tetrahydropyran-2-yloxy)phenyl]-4-(4-trifluoromethoxyphenyl)piperazine | 6.27 mmol, 2.65 g | O1C(CCCC1)OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC(F)(F)F | C22H25F3N2O3
reactant | pyridinium p-toluene sulfonate | 1.88 mmol, 473 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-[4-(4-trifluoromethoxyphenyl)-piperazin-1-yl]phenol | 1.95 g, yield 92% | FC(OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)O)(F)F | C17H17F3N2O2
